US07129238B2
To an ice cooled mixture under Ar of (RS)-(2,6-difluoro-3-hydroxy-phenyl)-ethoxy-acetic acid, 4-aminomethyl-benzonitrile hydrochloride (10.6 g) and 1-hydroxybenzotriazole (9.8 g) in DMF (140 ml) was added EDC (13.9 g) and triethylamine (55 ml). The mixture was stirred 2.5 h at 0° C. and 2 d at rt. The solvent was evaporated and H2O (250 ml) was added. The product was extracted with AcOEt (2×200 ml). The organic layers were washed with 5% NaHCO3 aq. sol. (100 ml), brine 100 ml). After drying (Na2SO4) the solvent was evaporated. CC (AcOEt/Hept 2:3) afforded 7.66 g (49%) of (RS)-N-(4-cyano-benzyl)-2-(2,6-difluoro-3-hydroxy-phenyl)-2-ethoxy-acetamide. White solid. MS 364.1 ([M+NH4]+).

reactant | (RS)-(2,6-difluoro-3-hydroxy-phenyl)-ethoxy-acetic acid | FC1=C(C(=CC=C1O)F)C(C(=O)O)OCC | C10H10F2O4
reactant | 4-aminomethyl-benzonitrile hydrochloride | 10.6 g | Cl.NCC1=CC=C(C#N)C=C1
reactant | 1-hydroxybenzotriazole | 9.8 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDC | 13.9 g
solvent | DMF | 140 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 55 ml | C(C)N(CC)CC | C6H15N
product | (RS)-N-(4-cyano-benzyl)-2-(2,6-difluoro-3-hydroxy-phenyl)-2-ethoxy-acetamide | 7.66 g, 49% | C(#N)C1=CC=C(CNC(C(OCC)C2=C(C(=CC=C2F)O)F)=O)C=C1 | C18H16F2N2O3
